US04835154
(iii) N-Formyl-N-(3,5-difluorobenzyl)glycine methyl ester
A solution of N-(3,5-difluorobenzyl)-glycine methyl ester (7.61 g, 0.0352 mole) and formic acid (1.33 ml, 0.0352 mole) was heated at reflux in xylene (60 ml) with azeotroic removal of water for 2.5 hours and the solvent was removed under vacuum to give the product as an oil (8.50 g, 99%).

reactant | N-(3,5-difluorobenzyl)-glycine methyl ester | 0.0352 mole, 7.61 g | COC(CNCC1=CC(=CC(=C1)F)F)=O | C10H11F2NO2
reactant | formic acid | 0.0352 mole, 1.33 ml | C(=O)O | CH2O2
reactant | water | O | H2O
solvent | xylene | 60 ml | C=1(C(=CC=CC1)C)C | C8H10
product | N-Formyl-N-(3,5-difluorobenzyl)glycine methyl ester | 8.50 g, 99% | COC(CN(CC1=CC(=CC(=C1)F)F)C=O)=O | C11H11F2NO3
